US07402606B2
A solution of 6.34 g (41.7 mmol) of (3S)-1-benzyl-4,4-dimethyl-3-pyrrolidinol in 250 mL of ethanol and 50 mL of 1N hydrochloric acid was stirred under hydrogen (40 psi) for 18 h in the presence of 300 mg of 10% Pd/C, after which the amount of 10% Pd/C was doubled and 2 mL of concentrated hydrochloric acid were added. The mixture was stirred for an additional 72 h under hydrogen (40 psi), before the 10% Pd/C was filtered off over celite. The filtrate was concentrated and several portions of toluene were distilled from the residue, which was then dried under high vacuum to afford 4.74 g (quantitative yield) of (3S)-4,4-dimethyl-3-pyrrolidinol hydrochloride. 1H NMR (300 MHz, DMSO-d6) δ 9.46 (m, 2H), 5.43 (br s, 1H), 3.75 (m, 1H), 3.36 (m, 1H), 2.88 (m, 3H), 0.98 (s, 3H), 0.94 (s, 3H).

reactant | (3S)-1-benzyl-4,4-dimethyl-3-pyrrolidinol | 41.7 mmol, 6.34 g | C(C1=CC=CC=C1)N1C[C@H](C(C1)(C)C)O | C13H19NO
reactant | hydrochloric acid | 1N, 50 mL | Cl | ClH
reactant | hydrochloric acid | 2 mL | Cl | ClH
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | (3S)-4,4-dimethyl-3-pyrrolidinol hydrochloride | 4.74 g, quantitative yield | Cl.CC1([C@@H](CNC1)O)C | InChI=1S/C6H13NO.ClH/c1-6(2)4-7-3-5(6)8;/h5,7-8H,3-4H2,1-2H3;1H/t5-;/m1./s1
